US08729095B2
To a tetrahydrofuran solution (20.0 ml) of methyl 2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}-3-nitrobiphenyl-4-carboxylate (793 mg) was added at room temperature potassium trimethylsilanolate (982 mg), followed by stirring for 7 hours. A 10% aqueous citric acid solution was added to the reaction solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}-3-nitrobiphenyl-4-carboxylic acid (761 mg).

reactant | methyl 2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}-3-nitrobiphenyl-4-carboxylate | 793 mg | OCC[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OC)[N+](=O)[O-] | C18H19NO6
reactant | potassium trimethylsilanolate | 982 mg | C[Si]([O-])(C)C.[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20.0 ml | O1CCCC1 | C4H8O
product | 2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}-3-nitrobiphenyl-4-carboxylic acid | 761 mg | OCC[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)[N+](=O)[O-] | C17H17NO6
